US06833481B2
Into a 2-litter four-neck flask fitted with a thermometer, a reflux condenser and a stirrer were added sodium hydroxide (3.2 g) and water (300 ml). Then, a mixture of hexanal (100 g) and cyclopentanone (152 g) was added dropwise thereto under stirring at 0-5° C. over a period of 2 hours. After the addition, the reaction mixture was stirred at room temperature for 1 hour to complete the reaction. Hexane (150 ml) was added to the reaction mixture and the layers were separated from each other. The resulting organic layer was washed with an aqueous solution (200 ml) of acetic acid (1 g) and then separated. The resulting organic layer was further washed with saturated brine and separated. The organic layer was evaporated on a rotary evaporator under reduced pressure to recover hexane and unreacted cyclopentanone, whereby a crude product (188 g) was obtained. The product was distilled using a Claisen distillation apparatus to obtain 142 g of 2-(1-hydroxyhexyl)cyclopentanone (boiling point: 107-108° C./666 Pa; GC purity: 94%). The remaining 6% was 2-hexylidenecyclopentanone which is a dehydration product.

reactant | sodium hydroxide | 3.2 g | [OH-].[Na+]
reactant | water | 300 ml | O | H2O
reactant | hexanal | 100 g | C(CCCCC)=O | C6H12O
reactant | cyclopentanone | 152 g | C1(CCCC1)=O | C5H8O
solvent | Hexane | 150 ml | CCCCCC | C6H14
product | 2-(1-hydroxyhexyl)cyclopentanone | 142 g | OC(CCCCC)C1C(CCC1)=O | C11H20O2
